US05449785
To a stirred solution of n-octyltriphenylphosphonium bromide (2124 mg) in dry THF (10 ml) and dry HMPA (5 ml), there was added n-BuLi (4.0 ml, 1.6M in n-hexane) at 0° C. After the mixture was stirred at 0° C. for 30 min, a solution of (2S,3R,4S,5S)-4-methoxy-5-methyl-3-(tert-butyldimethylsilyloxy)tetrahydro-2H-pyran-2-carbaldehyde (497 mg) in dry THF (3 ml) was added to the resulting orange solution. The mixture was stirred at 0° C. for 30 min, and at room temperature for 2 hours. The reaction was quenched by addition of saturated aqueous ammonium chloride solution. The mixture was extracted with diethyl ether, and the combined ethereal extracts were washed with brine, dried over sodium sulfate, filtered, and concentrated. Purification of the residue by silica gel chromatography gave (2S,3R,4S,5S)-3-(tert-butyldimethylsilyloxy)-4-methoxy-5-methyl-2-[(Z)-1-nonenyl]tetrahydro-2H-pyran (602 mg, 72% yield).

reactant | n-octyltriphenylphosphonium bromide | 2124 mg | [Br-].C(CCCCCCC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-BuLi | 1.6M, 4.0 ml | [Li]CCCC
reactant | (2S,3R,4S,5S)-4-methoxy-5-methyl-3-(tert-butyldimethylsilyloxy)tetrahydro-2H-pyran-2-carbaldehyde | 497 mg | CO[C@@H]1[C@H]([C@H](OC[C@@H]1C)C=O)O[Si](C)(C)C(C)(C)C | C14H28O4Si
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | HMPA | 5 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | (2S,3R,4S,5S)-3-(tert-butyldimethylsilyloxy)-4-methoxy-5-methyl-2-[(Z)-1-nonenyl]tetrahydro-2H-pyran | 602 mg, 72% yield | [Si](C)(C)(C(C)(C)C)O[C@H]1[C@@H](OC[C@@H]([C@@H]1OC)C)\C=C/CCCCCCC | C22H44O3Si
